US07534894B2
Step 5: N-{[3′-bromo-4′-(1H-tetraazol-5-ylmethoxy)-1,1′-biphenyl-4-yl]methyl}-N,1-dimethyl-1H-indole-3-carboxamide.
A mixture of N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-N,1-dimethyl-1H-indole-3-carboxamide (2.0 g, 4.1 mmol), prepared in the previous step, sodium azide (0.80 g, 12.3 mmol) and ammonium chloride (0.66 g, 12.3 mmol) in 42 mL of DMF was stirred under nitrogen at 100° C. for 4 h. By TLC a small amount of starting material remained. An additional 0.80 g (12.3 mmol) of sodium azide and 0.66 g (12.3 mmol) of ammonium chloride were added and the reaction stirred at 100° C. for 3 h. After cooling to room temperature the reaction was diluted with 65 mL of water, made basic by the addition of 1 N NaOH and extracted three times with ethyl acetate. The aqueous layer was acidified with 1 N HCl. An oil separated which eventually solidified. The solid was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (1.6 g, 73%) as a tan solid, mp 239° C. Elemental Analysis for C26H23BrN6O2Calc'd: C, 58.77; H, 4.36; N, 15.81. Found: C, 57.73; H, 4.40; N, 15.52

reactant | N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-N,1-dimethyl-1H-indole-3-carboxamide | 4.1 mmol, 2.0 g | BrC=1C=C(C=CC1OCC#N)C1=CC=C(C=C1)CN(C(=O)C1=CN(C2=CC=CC=C12)C)C | C26H22BrN3O2
reactant | sodium azide | 12.3 mmol, 0.80 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 12.3 mmol, 0.66 g | [Cl-].[NH4+]
reactant | sodium azide | 12.3 mmol, 0.80 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 12.3 mmol, 0.66 g | [Cl-].[NH4+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 42 mL | CN(C)C=O | C3H7NO
solvent | water | 65 mL | O | H2O
product | N-{[3′-bromo-4′-(1H-tetraazol-5-ylmethoxy)-1,1′-biphenyl-4-yl]methyl}-N,1-dimethyl-1H-indole-3-carboxamide | 1.6 g, 73% | BrC=1C=C(C=CC1OCC1=NN=NN1)C1=CC=C(C=C1)CN(C(=O)C1=CN(C2=CC=CC=C12)C)C | C26H23BrN6O2
